US08895207B2
4-(2-ammonioethyl)benzenediazonium tetrafluoroborate
A 50% solution of tetrafluoroboric acid in Et2O (0.5mL, 3.7 mmol) was added to a solution of 4-(2-aminoethyl)aniline (0.5mg, 3.7 mmol) in MeCN (Amp at −40° C. under argon. The mixture was stirred 10 min, then nitrosyl tetrafluorobbrate (450 mg, 3.8 mmol) was added dropwise. After 30 min of stirring at −40 ° C. Et2O (100 mL) was added. The white precipitate obtained was filtered and washed twice with Et2O to give a white powder (1.18 g, 99%).

reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | Et2O | 3.7 mmol, 0.5mL | CCOCC | C4H10O
reactant | 4-(2-aminoethyl)aniline | 3.7 mmol, 0.5mg | NCCC1=CC=C(N)C=C1 | C8H12N2
reactant | Et2O | 100 mL | CCOCC | C4H10O
reactant | MeCN | CC#N | C2H3N
product | 4-(2-ammonioethyl)benzenediazonium tetrafluoroborate | 1.18 g, 99% | F[B-](F)(F)F.[NH3+]CCC1=CC=C(C=C1)[N+]#N.F[B-](F)(F)F | InChI=1S/C8H10N3.2BF4/c9-6-5-7-1-3-8(11-10)4-2-7;2*2-1(3,4)5/h1-4H,5-6,9H2;;/q+1;2*-1/p+1
